Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, fevers, chills 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ yo woman with HTN who presented to the ED 
with abdominal pain, fevers and chills.  
.  
She reports that her symtpoms began about 3 days PTA, when she 
developed fevers. She then awoke 2 days PTA with LLQ abdominal 
pain at 3 a.m. She tried to go to work, but could not continue 
and saw her PCP in the afternoon. She developed nausea 
throughout the day as well. She was prescribed a single 
antibiotic to be taken twice daily (she cannot recall the name 
of ___ as ___ treatment.  
.  
Since seeing her PCP, she has not had any change in her 
symptoms, and she has also developed chills. She felt as though 
she was not going to be able to take her PO antibiotics. She 
denies vomiting, diarrhea, constipation, melena or hematochezia. 
She has had normal bowel movements.  
In the ED, initial VSs were 101.0, 119, 131/62, 20, 96%. Her 
temperature rose as high as 101.2. She received IV ciprofloxacin 
and metronidazole and morphine IV for pain control.  
.  
On the floor, she reports that she had a colonoscopy within the 
last few months for hematochezia. She reports that polyps were 
removed. Also, about 1 month ago, she had 1 episode of 
hematochezia that was preceded by intense abdominal cramping. 
She has not had any hematochezia or melena since.
 
Past Medical History:
HTN
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
97.3 124/78 90 20 98%RA  
Gen: NAD, pleasant  
HEENT: OP clear, EOMI  
Neck: No JVD,  
Cor: RR, nS1 S2, no appreciable m/r/g  
Pulm: CTAB  
Abd: +BS, moderately tender in the LLQ, no rebound, 
nondistended, no HSM  
Extrem: no c/c/e 
 
Pertinent Results:
___ 07:32PM BLOOD Glucose-114* UreaN-15 Creat-1.0 Na-139 
K-3.6 Cl-103 HCO3-27 AnGap-13
___ 07:32PM BLOOD WBC-10.6 RBC-5.27 Hgb-11.6* Hct-35.4* 
MCV-67* MCH-22.1* MCHC-32.9 RDW-14.1 Plt ___
___ 07:32PM BLOOD Neuts-80.1* Lymphs-14.2* Monos-5.1 
Eos-0.6 Baso-0.1
___ 07:32PM BLOOD ALT-20 AST-21 AlkPhos-64 TotBili-0.6
___ 07:32PM BLOOD Albumin-4.0 Calcium-8.7 Phos-2.4* Mg-2.2
___ 07:43PM BLOOD Lactate-0.9
___ 09:20PM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-15 Bilirub-NEG Urobiln-0.2 pH-5.0 Leuks-NEG
___ 09:20PM URINE ___ Bacteri-NONE Yeast-NONE 
___
.
Blood culture (___): No growth to date.
Urine culture (___): No growth to date.
.
CT abdomen: acute uncomplicated diverticulitis of the descedning 
colon without drainable fluid collection or free air.
 
Brief Hospital Course:
___ yo woman with hypertension presented with acute uncomplicated 
diverticulitis.  
.  
Diverticulitis: The patient presented with LLQ pain. Abdominal 
CT showed acute uncomplicated diverticulitis. She was treated 
with ciprofloxacin and metronidazole and discharged on a total 7 
day course of therapy. Within 24 hours she reported improvement 
in her symptoms including less nausea and pain. She remained 
afebrile and had no leukocytosis. She was able to tolerate 
liquids with no nausea or vomiting at discharge. She has blood 
and urine cultures without growth to date at the time of 
discharge. The patient was told to follow-up with her primary 
care doctor within 10 days of discharge.
.  
Hypertension: She was continued on home metoprolol 50 bid.
 
Medications on Admission:
Antibiotic, name unknown bid  
___ 50 bid 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Diverticulitis

Secondary: Hypertension

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted with abdominal pain, fevers and nausea. This 
was likely due to diverticulitis - an infection of an 
outpouching of the colon. Please complete a course of 
antibiotics to treat this problem.

The only new medications started during this hospitalization are 
ciprofloxacin and metronidazole, two antibiotics intended to 
treat your infection.

Please follow-up with your primary care doctor within 10 days.

Call your doctor or return to the hospital for any new or 
worsening fevers, pain, nausea, vomiting, inability to tolerate 
___ or any other concerning symptom.
 
Followup Instructions:
___